US07642264B2
2-(4-Pyridin-3-yl-imidazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 2-chloro-4-(4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine (example A.2) (0.16 g, 0.5 mmol) and commercially available 3-(1H-imidazol-4-yl)-pyridine [CAS-No. 51746-85-1] (0.073 g, 0.5 mmol) according to the general procedure IVa. Obtained as a light brown solid (0.11 g, 49%). MS (ISP) 436.1 [(M)+]; mp 200.5° C.

reactant | 2-chloro-4-(4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | 0.5 mmol, 0.16 g | ClC1=NC(=CC(=N1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C12H5ClF6N2
reactant | 3-(1H-imidazol-4-yl)-pyridine | 0.5 mmol, 0.073 g | N1C=NC(=C1)C=1C=NC=CC1 | C8H7N3
product | 2-(4-Pyridin-3-yl-imidazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | N1=CC(=CC=C1)C=1N=CN(C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C20H11F6N5
